US08420655B2
To a solution of 4-bromo-1-fluoro-2-nitrobenzene (200 μL, 1.62 mmol) and tert-amyamine (170 mg, 1.95 mmol) in THF (5.0 mL) is added diisopropylethyl amine (500 μL, 2.87 mmol). The reaction mixture is allowed to cool to room temperature and is concentrated under reduced pressure to afford crude (4-bromo-2-nitro-phenyl)-(1,1-dimethyl-propyl)-amine (600 mg).

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 1.62 mmol, 200 μL | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | diisopropylethyl amine | 2.87 mmol, 500 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | THF | 5.0 mL | C1CCOC1 | C4H8O
product | (4-bromo-2-nitro-phenyl)-(1,1-dimethyl-propyl)-amine | 600 mg | BrC1=CC(=C(C=C1)NC(CC)(C)C)[N+](=O)[O-] | C11H15BrN2O2
